US07435837B2
Treatment of (±)-[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.48 g, 3.59 mmol) with sodium azide (0.933 g, 14.35 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.101 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.555 g (53%) of (±)-1-[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 229-234° C.; Anal. calcd. for C16H16FNOHCl.0.1H2O: C, 65.02; H, 5.87; N, 4.74. Found: C, 64.99; H, 5.83; N, 4

reactant | (±)-[5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.59 mmol, 1.48 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)C)F | C23H21FO4S
reactant | sodium azide | 14.35 mmol, 0.933 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-5-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)C)F | C16H14FN3O
